US06180113B2
a) 13,13,13,12,12,11,11,10,10,9,9,8,8,7,7,6,6-Heptadecafluoro-3-oxatridecanoic acid-t-butyl ester
10.51 g (53.9 mmol) of bromoacetic acid-tert-butyl ester is added in drops to a mixture of 10 g (21.55 mmol) of 1H,1H,2H,2H-perfluorodecan-1-ol and 0.73 g (2.15 mmol) of tetrabutylammonium hydrogen sulfate in 100 ml of 60% potassium hydroxide solution/50 ml of toluene while being stirred vigorously at 0° C. It is stirred for 1 hour at 0° C. 200 ml of toluene is added, the aqueous phase is separated and extracted twice with 50 ml of toluene each. The combined organic phases are dried on magnesium sulfate and concentrated by evaporation in a vacuum. The residue is chromatographed on silica gel (mobile solvent: hexane/dichlormethane/acetone=20/10/1).

reactant | bromoacetic acid-tert-butyl ester | 53.9 mmol, 10.51 g | C(C)(C)(C)OC(CBr)=O | C6H11BrO2
reactant | 1H,1H,2H,2H-perfluorodecan-1-ol | 21.55 mmol, 10 g | C(CO)C(C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F | C10H5F17O
reactant | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
reactant | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrabutylammonium hydrogen sulfate | 2.15 mmol, 0.73 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | potassium hydroxide | 100 ml | [OH-].[K+]
product | 13,13,13,12,12,11,11,10,10,9,9,8,8,7,7,6,6-Heptadecafluoro-3-oxatridecanoic acid-t-butyl ester | C(C)(C)(C)OC(COCCC(C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)=O | C16H15F17O3
